US06262045B1
11.6. 7-Chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetonitrile
1.27 g (10.96 mmol) of potassium 1,1-dimethylethoxide are added, in small portions, to a solution of 2.14 g (10.96 mmol) of (4-methylbenzenesulphonyl)methyl isocyanide in 50 ml of 1,2-dimethoxyethane, the reaction mixture is stirred for 30 min at −60° C., 2.88 g (8.53 mmol) of 7-chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxaldehyde are added and the reaction mixture is stirred for 3 hours 30 min at −60° C. 9 ml of methanol are added and the reaction mixture is further stirred for 30 min at room temperature and for 1 hour at reflux. The mixture is cooled and concentrated under reduced pressure, water, 5 ml of acetic acid and 200 ml of dichloromethane are added to the residue, the organic phase is separated by settling and the aqueous phase is extracted with dichloromethane. The organic phases are combined, washed with water, dried over sodium sulphate, filtered and concentrated under reduced pressure and the residue is purified by chromatography on a column of silica gel. 1.87 g (5.36 mmol) of compound are isolated in the form of a white solid which is used as is in the following stage.

reactant | potassium 1,1-dimethylethoxide | 10.96 mmol, 1.27 g | CC([O-])(C)C.[K+]
reactant | (4-methylbenzenesulphonyl)methyl isocyanide | 10.96 mmol, 2.14 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | 7-chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxaldehyde | 8.53 mmol, 2.88 g | ClC=1C=CC=2C3=C(N(C2C1)C)C(N(N=C3C=O)C3=CC=CC=C3)=O | C18H12ClN3O2
reactant | methanol | 9 ml | CO | CH4O
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | 7-Chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetonitrile | 5.36 mmol, 1.87 g | ClC=1C=CC=2C3=C(N(C2C1)C)C(N(N=C3CC#N)C3=CC=CC=C3)=O | C19H13ClN4O
